US08106077B2
4-{4-[3-(2,6-Dichloro-phenyl)-5-isopropyl-3H-[1,2,3]triazol-4-ylmethoxy-]-2-methyl-phenylethynyl}-benzoic acid
To an ambient temperature solution of 4-{4-[3-(2,6-Dichloro-phenyl)-5-isopropyl-3H-[1,2,3]triazol-4-ylmethoxy]-2-methyl-phenylethynyl}-benzoic acid methyl ester (32 mg, 0.0599 mmol) in dioxane (2 mL) is added a solution of lithium hydroxide (90 μL, 0.180 mmol, 2.0N in water). The reaction mixture is stirred at room temperature overnight. The reaction is concentrated and the residue is partitioned between Et2O and water. The aqueous layer pH is adjusted to approximately 4 and the aqueous layer is extracted with a second portion of Et2O. The combined organic layers are washed with water, dried (MgSO4), filtered, and concentrated to yield the title compound (32 mg, quant). LC-ES/MS m/e 520.2 (M+1), HPLC purity: 100%.

reactant | 4-{4-[3-(2,6-Dichloro-phenyl)-5-isopropyl-3H-[1,2,3]triazol-4-ylmethoxy]-2-methyl-phenylethynyl}-benzoic acid methyl ester | 0.0599 mmol, 32 mg | COC(C1=CC=C(C=C1)C#CC1=C(C=C(C=C1)OCC=1N(N=NC1C(C)C)C1=C(C=CC=C1Cl)Cl)C)=O | C29H25Cl2N3O3
reactant | lithium hydroxide | 0.180 mmol, 2.0N, 90 μL | [OH-].[Li+]
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | 4-{4-[3-(2,6-Dichloro-phenyl)-5-isopropyl-3H-[1,2,3]triazol-4-ylmethoxy-]-2-methyl-phenylethynyl}-benzoic acid | 32 mg | ClC1=C(C(=CC=C1)Cl)N1N=NC(=C1COC1=CC(=C(C=C1)C#CC1=CC=C(C(=O)O)C=C1)C)C(C)C | C28H23Cl2N3O3
